Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],4.16604286531
[C:4]([H:5])=[O:6].[O:1]([C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[H:7]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.45735619167
[C:1]#[C:2][C:3]([H:4])([H:5])[C:8]([H:9])=[C:10][H:11].[C:6][H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11],-5.8793359816900015
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3][C:4].[C:5]([H:6])([H:7])[O:8][H:9],1.74031349539
[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-8.66743608118
[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.1417740594
[C:1][C:2]#[C:3][C:6]([H:7])=[C:8]([H:9])[H:10].[O:4][H:5]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-5.62514272436
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.27835545201
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([C:7]([H:8])([H:9])[H:10])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:11][C:14]([H:15])([H:16])[H:17],4.43335136124
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:8]([H:9])[H:10].[O:6][H:7],6.25613412954
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-7.13279860543
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])[H:11].[H:7],2.76007262873
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],1.00112251698
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.66136438325
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17],1.75738426676
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.44913948735
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:4]([H:5])[H:6].[H:1][C:2]#[C:3][C:7]([H:8])[H:9],4.66364597063
[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.1198733044200004
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],2.7715981016500004
[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.525253964630001
[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10],-4.37503683886
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8].[H:9],4.44768950292
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],7.56531852133
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4][H:5],2.97321178148
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.8804976979300014
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:12]([H:13])([H:14])[H:15],7.020445403360001
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.63394308494
[H:1][C:2]#[C:3][C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.07312891182
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-7.79382004628
